US04391815
To a solution of 4-dimethylaminopyridine (0.98 g) in dichloromethane (50 ml) was added 2,2-dimethylpropanoyl chloride (0.69 ml) dropwise and with gentle stirring, followed by crude trans-2,2-dimethyl-4-pyrrolidino-6-cyano-3,4-dihydro-2H-benzo[b]-pyran-3-ol (2.50 g) in dichloromethane (50 ml) during 4 minutes. The resulting red solution was heated under reflux for 40 hours before cooling and evaporation of solvent. The orange residue was taken up in ethyl acetate and washed with water, dried and evaporated leaving a mustard coloured solid (2.97 g) which was separated by chromatography on silica gel (110 g) with mixtures of ethyl acetate and 60°-80° petroleum ether using a gradient elution technique, into crude ester (1.12 g) and starting material (1.13 g). Recrystallization of the crude material from 60°-80° petroleum ether gave trans-2,2-dimethyl-3-(2,2-dimethylpropanoyloxy)-4 pyrrolidino-6-cyano-3,4-dihydro-2H-benzo[b]pyran (0.73 g) as white crystals of m.p. 109°-110° C.; IR absorptions at 1730, 2220 cm-1 ; nmr (CDCl3) δ 1.24 (9H), 1.29 (3H), 1.41 (3H), 1.75 (4H, broad m), 2.73 (4H, broad m), 4.09 (1H, d, J=9), 5.33 (1H, d, J=9), 6.86 (1H, d, J=8), 7.43 (1H, q, J=8, 2), 7.74 (1H, d, J=2). Anal. Calcd. for C21H28N2O3 : C, 70.76; H, 7.92; N,7.86. Found: C, 70.74; H, 8.03, N, 7.76%.

reactant | 2,2-dimethylpropanoyl chloride | 0.69 ml | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | trans-2,2-dimethyl-4-pyrrolidino-6-cyano-3,4-dihydro-2H-benzo[b]-pyran-3-ol | 2.50 g | CC1([C@H]([C@@H](C2=C(O1)C=CC(=C2)C#N)N2CCCC2)O)C | C16H20N2O2
catalyst | 4-dimethylaminopyridine | 0.98 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | trans-2,2-dimethyl-3-(2,2-dimethylpropanoyloxy)-4 pyrrolidino-6-cyano-3,4-dihydro-2H-benzo[b]pyran | 0.73 g | CC1([C@H]([C@@H](C2=C(O1)C=CC(=C2)C#N)N2CCCC2)OC(C(C)(C)C)=O)C | C21H28N2O3
